US09278922B2
(S)-2-(2-methoxyacetamido)-3,3-dimethylbutanoic acid
(S)-2-amino-3,3-dimethylbutanoic acid (0.50 g, 3.8 mmol) and sodium bicarbonate (0.80 g, 9.5 mmol) were dissolved into water (20 mL) then cooled in an ice bath. Methoxyacetyl chloride (0.38 mL, 4.2 mmol) was dissolved in diethyl ether (5 mL) and added dropwise with vigorous stirring. The solution was stirred at ambient temperature for 5 hours then adjusted to pH 3 with concentrated hydrochloric acid and extracted into ethyl acetate. The organic solution was dried over sodium sulfate, filtered, and concentrated to give 0.16 g (21%) of the title compound as a waxy solid.

reactant | (S)-2-amino-3,3-dimethylbutanoic acid | 3.8 mmol, 0.50 g | N[C@H](C(=O)O)C(C)(C)C | C6H13NO2
reactant | sodium bicarbonate | 9.5 mmol, 0.80 g | C([O-])(O)=O.[Na+]
reactant | Methoxyacetyl chloride | 4.2 mmol, 0.38 mL | COCC(=O)Cl | C3H5ClO2
reactant | hydrochloric acid | Cl | ClH
solvent | diethyl ether | 5 mL | C(C)OCC | C4H10O
solvent | water | 20 mL | O | H2O
product | (S)-2-(2-methoxyacetamido)-3,3-dimethylbutanoic acid | 0.16 g, 21% | COCC(=O)N[C@H](C(=O)O)C(C)(C)C | C9H17NO4
